US07652015B2
(2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester
Place 2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-ylamine (170 mg, 0.693 mmol) in ethyl acetate (10 mL). Add potassium carbonate (191 mg, 1.38 mmol) and water (2 mL). Stir the reaction and add trichloroethyl chloroformate (0.114 mL, 0.831 mmol). Stir at room temperature for 18 hours. Add water and ethyl acetate. Separate organic layer and wash with saturated aq. sodium chloride. Collect organic layer, dry over Mg2SO4, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with 0-30% EtOAc:hexane to yield 280 mg (96%) of the title compound. MS(ES+): m/z=420.2 [M+H].

reactant | 2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-ylamine | 0.693 mmol, 170 mg | C1(=CC=C(C=C1)N1N=C(C=C1N)[Si](C)(C)C)C | C13H19N3Si
reactant | potassium carbonate | 1.38 mmol, 191 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
reactant | trichloroethyl chloroformate | 0.831 mmol, 0.114 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 280 mg, 96% | ClC(COC(NC=1N(N=C(C1)[Si](C)(C)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C16H20Cl3N3O2Si
